US05102667
Triethyloxonium tetrafluoborate (4 g) is added to a solution of (3aR,7aR)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone (7.7 g) in anhydrous dichloromethane (13 cc). Stirring of the reaction mixture is continued for 20 hours at ambient temperature; the mixture is then cooled to -15° C. and a 5.4N ethanolic ammonia solution (2.6 cc) is then added. The temperature of the reaction mixture is allowed to rise to ambient temperature and stirring is continued for 5 hours and a half. The reaction mixture is treated with a 10% aqueous solution (20 cc) of potassium carbonate; the precipitate formed is drained and washed with dichloromethane (10 cc). The organic phases are combined, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (10 cc); the crystals obtained are drained, washed with acetonitrile (5 cc) and with isopropyl ether (10 cc) and dried. They are then chromatographed on a Pechiney CBT1 neutral alumina gel column (diameter 4.5 cm, height 28 cm), eluting with a mixture (200 cc) of 1,2-dichloroethane and methanol (98/2 by volume) and then with a mixture of 1,2-dichloroethane and methanol (90/10 by volume), collecting 25 cc fractions. Fractions 8 to 31 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (10 cc); the crystals obtained are drained and dried. (3aR,7aR)-2-[1-imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenyl-4-perhydroisoindolone (1.6 g) melting at 190° C. is obtained; [α]20D =-254° (c=1, methanol).

reactant | Triethyloxonium | 4 g | C(C)[O+](CC)CC
reactant | (3aR,7aR)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone | 7.7 g | C1(=CC=CC=C1)C1(CCC([C@H]2CN(C[C@@H]12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C29H29NO3
reactant | ammonia | 5.4N, 2.6 cc | N | H3N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 13 cc | ClCCl | CH2Cl2
product | (3aR,7aR)-2-[1-imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenyl-4-perhydroisoindolone | 1.6 g | N=C(CC1=C(C=CC=C1)OC)N1C[C@H]2C(CCC([C@H]2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O2
